US04493843
A solution of 2-(n-undecyl)indole-5-carboxylic acid (15.0 g) in ethanol (50 ml) containing a solution of hydrogen chloride gas in ethanol (100 ml of strength 34% w/v) was refluxed for 3 hours. The solution was poured onto a mixture of crushed ice and water and the precipitated solid was collected. Recrystallisation from ethanol (100 ml) with charcoal treatment gave ethyl 2-(undecyl)indole-5-carboxylate (7.5 g), in the form of white crystals, m.p. 76°-77° C.

reactant | 2-(n-undecyl)indole-5-carboxylic acid | 15.0 g | C(CCCCCCCCCC)C=1NC2=CC=C(C=C2C1)C(=O)O | C20H29NO2
reactant | hydrogen chloride | Cl | ClH
reactant | water | O | H2O
reactant | ethanol | 50 ml | C(C)O | C2H6O
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 2-(undecyl)indole-5-carboxylate | 7.5 g | C(CCCCCCCCCC)C=1NC2=CC=C(C=C2C1)C(=O)OCC | C22H33NO2
